US06656937B2
2-[(1S)-(3-carbamoyl-1-carboxypropylamino)methyl]benzoic acid
A suspension of 1.65 g 2-formylbenzoic acid in 5 ml ethanol and 5 ml 2 M sodium hydroxide solution was added to a solution of 1.46 g L-glutamine in 5 ml of a 2 M aqueous sodium hydroxide solution. After stirring for 1 h at 20° C., the mixture was cooled to 0° C. and 0.25 g sodium borohydride were added in portions over 15 min with vigorous stirring. After 90 min a further 0.33 g 2-formyl benzoic acid and 0.05 g sodium borohydride were added. After stirring for 16 h at 20° C., the reaction mixture was acidified with conc. hydrochloric acid to pH 2 and cooled to 0° C. The precipitate formed was separated off, washed with acetone and dried in vacuo. 0.87 g (31% of theoretical) of the title compound remained in the form of crystals, which melted at 132-133° C.

reactant | 2-formylbenzoic acid | 1.65 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | L-glutamine | 1.46 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | sodium borohydride | 0.25 g | [BH4-].[Na+]
reactant | 2-formyl benzoic acid | 0.33 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | sodium borohydride | 0.05 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2 M, 5 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2 M | [OH-].[Na+]
product | 2-[(1S)-(3-carbamoyl-1-carboxypropylamino)methyl]benzoic acid | C(N)(=O)CC[C@@H](C(=O)O)NCC1=C(C(=O)O)C=CC=C1 | C13H16N2O5
